US20010027196A1
To a stirred suspension of 0.5 g (2.25 mmol) 2-amino-6-furan-2-yl-5-nitro-3H-pyrimidin-4-one in 5 ml dichloromethane was added 1.01 ml (4.50 mmol) 2,6-di-tert-butylpyridine and the mixture was ultrasonicated for 30 minutes. 0.37 ml (2.25 mmol) triflic anhydride was then added dropwise at 0° C. with stirring and stirring continued at room temperature for 16 hours. The reaction mixture was then partitioned between water and dichloromethane and the organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was recrystallised from ether/hexane and the resulting crystals (2,6-di-tert-butylpyridinium triflate) were removed by filtration. The mother liquor was concentrated in vacuo to afford 0.67 g (84%) trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester as a brown oil. ES-MS m/e (%): 353 ([M—H]−, 100).

reactant | 2-amino-6-furan-2-yl-5-nitro-3H-pyrimidin-4-one | 2.25 mmol, 0.5 g | NC1=NC(=C(C(N1)=O)[N+](=O)[O-])C=1OC=CC1 | C8H6N4O4
reactant | 2,6-di-tert-butylpyridine | 4.50 mmol, 1.01 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | triflic anhydride | 2.25 mmol, 0.37 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | 0.67 g, 84% | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
